US07501518B2
To a solution of potassium tert-butoxide (0.140 g, 1.25 mmol) in dry DMF (5 mL) was added acetone oxime (0.0877 g, 1.20 mmol), and the mixture was stirred for 30 min. A solution of 4-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-2-fluoro-benzonitrile (0.400 g, 1.00 mmol) in dry DMF (5 mL) was then added, and the mixture was stirred overnight. The solvent was then removed by evaporation under vacuum, and saturated aqueous NaHCO3 (10 mL) was added. The mixture was extracted with EtOAc (3×30 mL), and the extract was dried over Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified on silica gel column (1000:25:1 CH2Cl2/CH3OH/NH4OH), affording 4-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-2-isopropylideneaminooxy-benzonitrile as a pale yellow solid (0.311 g, 69%). 1H NMR (CDCl3) δ 1.65-1.75 (m, 3H), 2.06 (s, 3H), 2.07 (s, 3H), 2.09-2.14 (m, 1H), 2.20-2.40 (m, 2H), 2.45 (s, 6H), 3.58 (s, 2H), 4.19 (s, 1H), 4.23 (s, 1H), 6.14 (d, 1H, J=7.8 Hz), 6.68 (s, 1H), 6.91-6.96 (m, 3H), 7.22 (d, 2H, J=7.2 Hz), 8.35 (d, 2H, J=3.9 Hz).

reactant | potassium tert-butoxide | 1.25 mmol, 0.140 g | CC(C)([O-])C.[K+]
reactant | acetone oxime | 1.20 mmol, 0.0877 g | CC(C)=NO | C3H7NO
reactant | 4-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-2-fluoro-benzonitrile | 1.00 mmol, 0.400 g | CC=1C(=NC=CC1)[C@@H]1N([C@@H](CCC1)C1=NC=CC=C1C)CC1=CC(=C(C#N)C=C1)F | C25H25FN4
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-2-isopropylideneaminooxy-benzonitrile | 0.311 g, 69% | CC=1C(=NC=CC1)[C@@H]1N([C@@H](CCC1)C1=NC=CC=C1C)CC1=CC(=C(C#N)C=C1)ON=C(C)C | C28H31N5O
